US08067621B2
Step 1: 4-[(4-Chlorophenyl)sulfonyl]-6-fluoro-3,4-dihydro-2H-1-benzopyran
6-Fluorochroman-4-one (352 mg, 2.12 mmol) and 4-chlorothiophenol (320 mg, 2.2 mmol) were dissolved in 5 mL DCM. The reaction mixture was cooled to 0° C. and 2.4 mL of trifluoroacetic acid was added. After 5 min at 0° C., pyridine-borane complex (0.20 mL) was slowly added. The reaction mixture was stirred for 1 h at 0° C. Et2O (100 mL) and sat. NaHCO3 solution (100 mL) were added. The ether layer was dried over Na2SO4 and concentrated. The residue was dissolved in 10 mL DCM, mCPBA (77%, 1.01 g, 4.50 mmol) was added and the reaction mixture was stirred at room temperature overnight. 2 g of Na2SO3 in 20 mL of water was added and the reaction was stirred for 1 h then filtered. The layers were separated, then the organic layer was washed with 1N NaOH solution (100 mL), dried over Na2SO4 and concentrated. The product was purified by column chromatography using hex./EtOAc as the eluent (gradient from 100/0 to 30/70 in 60 min, 0.37 g, 53%). 1H NMR (CDCl3 400 MHz) δ 7.67 (d, J=8.8 Hz, 2H), 7.49 (d, J=8.8 Hz, 2H), 6.92 (m, 2H), 6.77 (m, 1H), 4.24 (m, 2H), 4.10 (m, 1H), 2.36 (m, 1H), 2.18 (m, 1H).

reactant | 6-Fluorochroman-4-one | 2.12 mmol, 352 mg | FC=1C=C2C(CCOC2=CC1)=O | C9H7FO2
reactant | 4-chlorothiophenol | 2.2 mmol, 320 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | trifluoroacetic acid | 2.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | m-Chloroperoxybenzoic acid | 4.50 mmol, 1.01 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Na2SO3 | 2 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 4-[(4-Chlorophenyl)sulfonyl]-6-fluoro-3,4-dihydro-2H-1-benzopyran | ClC1=CC=C(C=C1)S(=O)(=O)C1CCOC2=C1C=C(C=C2)F | C15H12ClFO3S
